2196-03-22 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2196-3-21**] 09:29 AM - no source for bleed.
   Received 3 units pRBC's overnight for a total of 6 units since
   admission.
   Dr. [**Last Name (STitle) 1584**] recommends outpatient ETT mibi.
   3rd set CE's negative
   Continued to have dark stools overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-3-21**] 08:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-22**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 79 (72 - 98) bpm
   BP: 134/65(82) {117/30(51) - 148/76(88)} mmHg
   RR: 14 (9 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  3,747 mL
                                                                    476 mL
   PO:
           TF:
   IVF:
                                                                    735 mL
                                                                      6 mL
   Blood products:
                                                                  2,012 mL
                                                                    470 mL
   Total out:
                                                                  3,000 mL
                                                                    200 mL
   Urine:
                                                                  3,000 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    747 mL
                                                                    276 mL
   Respiratory support
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   111 K/uL
   10.8 g/dL
   131 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   12 mg/dL
   108 mEq/L
   138 mEq/L
   29.3 %
   5.1 K/uL
        [image002.jpg]
                             [**2196-3-21**]  12:12 AM
                             [**2196-3-21**]  12:43 AM
                             [**2196-3-21**]  04:37 AM
                             [**2196-3-21**]  08:50 AM
                             [**2196-3-21**]  05:15 PM
                             [**2196-3-22**]  12:42 AM
                             [**2196-3-22**]  05:28 AM
   WBC
   8.0
   7.1
   5.1
   Hct
   22.0
   22.8
   22.6
   26.0
   27.2
   28.2
   29.3
   Plt
   179
   168
   111
   Cr
   0.8
   0.8
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   184
   154
   168
   131
   Other labs: PT / PTT / INR:15.1/31.4/1.3, CK / CKMB /
   Troponin-T:156/2/<0.01, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   This is a 56 yom with hx of HTN, Hypertriglyceridemia,
   Lymphoplasmacytic Lymphoma, Atrial Fibrillation on coumadin who
   presents from home with melena and anemia.
   # Upper GI Bleed:  Mr. [**Known lastname **] presents with complaint of melena and
   acute anemia with HCT drop from 40.4 ([**2195-12-12**]) --> 28.5 today in ED
   ---> 22 currently.  GI consulted in the ED and plan is for endoscopy in
   the AM if remains stable overnight.  If patient has significant
   bleeding then may need urgent endoscopy.  Patient currently on coumadin
   for atrial fibrillation.  INR 2.0 today, was given Vitamin K and FFP
   for reversal.  Currently receiving FFP.  Source of GI bleed unclear at
   this time.  Previous GI bleed from small bowel lymphoma.   Current
   bleed may also be from a lymphoma occuring in the GI tract.  Patient
   also has hx of EtOH which makes PUD/Gastritis also a possibility.
   -- Large bore IV x 2
   -- PPI IV BID
   -- Type and cross 4uPRBC
   -- Transfuse 2uPRBC now
   -- q4h HCT overnight
   -- guaiac all stools
   -- hold antihypertensives
   # Atrial Fibrillation:  Patient has hx of A-fib and is on Coumadin.
   INR reversed in the ED.  currently rate controlled, will hold rate
   controlling medications to assess for tachycardia in setting of likely
   GI bleed.
   -- hold Metoprolol, Digoxin
   -- hold coumadin in setting of GI Bleed
   -- FFP as above for INR > 1.5
   # ECG changes:  Patient with new ECG changes likely in setting of
   strain with acute anemia.  Denies CP, SOB.  unlikely ACS but will ROMI.
   -- cycle cardiac enzymes
   -- hold ASA in setting of bleed
   -- monitor on tele
   -- ECG in AM
   # HTN: hold home Metoprolol and Cozaar
   # Hypertriglyceridemia: hold home tricor
   # Peripheral Neuropathy: hold home Lyrica
   # FEN: NPO, replete electrolytes
   # Prophylaxis: PPI
   # Access: peripherals
   # Code: presumed full
   # Communication: Patient
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2196-3-21**] 08:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2196-03-22 11:01:00 Physician Attending Progress Note
Chief Complaint: UGIB
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2196-3-21**] 09:29 AM
   Melena x 4 formed with mixed brown stool
   Hct not bumping appropriately. INR stable
   HD stable.
   Capsule endoscopy outpt.
   Prep today for csopy tomorrow.
                        History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-3-22**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-22**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 75 (72 - 95) bpm
   BP: 143/60(76) {117/46(67) - 148/77(88)} mmHg
   RR: 14 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  3,747 mL
                                                                    836 mL
   PO:
           TF:
   IVF:
                                                                    735 mL
                                                                     16 mL
   Blood products:
                                                                  2,012 mL
                                                                    821 mL
   Total out:
                                                                  3,000 mL
                                                                    200 mL
   Urine:
                                                                  3,000 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    747 mL
                                                                    636 mL
   Respiratory support
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   HEENT: mm dry, JVP 6 cm
   RS: CTA
   Cardiovascular: (S1: Normal), (S2: Normal), irregular, 3/6 L PSM
   Peripheral Vascular: all present, no edema
   Abdominal: no organomegaly, BS +
   Skin:  warm, well perfused
   Neurologic: intact
   Labs / Radiology
   10.8 g/dL
   111 K/uL
   131 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   12 mg/dL
   108 mEq/L
   138 mEq/L
   29.3 %
   5.1 K/uL
        [image002.jpg]
                             [**2196-3-21**]  12:12 AM
                             [**2196-3-21**]  12:43 AM
                             [**2196-3-21**]  04:37 AM
                             [**2196-3-21**]  08:50 AM
                             [**2196-3-21**]  05:15 PM
                             [**2196-3-22**]  12:42 AM
                             [**2196-3-22**]  05:28 AM
   WBC
   8.0
   7.1
   5.1
   Hct
   22.0
   22.8
   22.6
   26.0
   27.2
   28.2
   29.3
   Plt
   179
   168
   111
   Cr
   0.8
   0.8
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   184
   154
   168
   131
   Other labs: PT / PTT / INR:15.1/31.4/1.3, CK / CKMB /
   Troponin-T:156/2/<0.01, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   56 y/o M with hx of Lymphoplasmacytic Lymphoma under remission with
   small residual tumors left in various locations, on coumadin for afib
   presents with melena, likely UGI bleed, no N/V. EGD with gastritis and
   old ulcer, but not enough to explain melena.
   # Upper GI Bleed:  4 episodes of formed melena mixed with brown stool.
   Getting transfused but not bumping appropiately.  Prep for colonoscope
   tomorrow. Capsule endoscope as oupt.
   Concern is for R side colon bleed vs tumor erosion.
   Check CBC and INR q6 and replace.
   Fluids prn urine output.
   Has 2 large bore ivs.
   On ppi iv bid.
    # HTN: meds held,  restart beta blocker when appropriate
    # Afib; continue dig, hold coumadin
   # ECG changes:  ruled out MI, outpt stress test
    # Alcohol: watch for DTs, start MVIs
   # Lymphoma: in remission
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: clears today
   Glycemic Control: Regular insulin sliding scale
   Lines / Intubation:
   18 Gauge - [**2196-3-21**] 12:41 AM
   Comments: 18 large bores
   Comments:
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 35 minutes

2196-03-23 06:27:00 Physician Resident Progress Note
Chief Complaint: GI Bleed
   24 Hour Events:
   Pt prepped for colonoscopy this am
   No blood transfusion requried last pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-3-22**] 08:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-23**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 65 (65 - 84) bpm
   BP: 96/40(54) {96/38(51) - 164/83(100)} mmHg
   RR: 10 (10 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,396 mL
                                                                  4,125 mL
   PO:
                                                                  1,550 mL
             TF:
   IVF:
                                                                     26 mL
                                                                    125 mL
   Blood products:
                                                                    821 mL
   Total out:
                                                                  1,500 mL
                                                                    700 mL
   Urine:
                                                                  1,000 mL
                                                                    700 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    896 mL
                                                                  3,425 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   143 K/uL
   11.8 g/dL
   105 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   10 mg/dL
   108 mEq/L
   141 mEq/L
   31.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2196-3-21**]  12:12 AM
                             [**2196-3-21**]  12:43 AM
                             [**2196-3-21**]  04:37 AM
                             [**2196-3-21**]  08:50 AM
                             [**2196-3-21**]  05:15 PM
                             [**2196-3-22**]  12:42 AM
                             [**2196-3-22**]  05:28 AM
                             [**2196-3-22**]  12:28 PM
                             [**2196-3-22**]  08:01 PM
                             [**2196-3-23**]  04:14 AM
   WBC
   8.0
   7.1
   5.1
   6.0
   Hct
   22.0
   22.8
   22.6
   26.0
   27.2
   28.2
   29.3
   34.6
   33.6
   31.8
   Plt
   179
   168
   111
   143
   Cr
   0.8
   0.8
   0.8
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   184
   154
   168
   131
   105
   Other labs: PT / PTT / INR:14.9/33.6/1.3, CK / CKMB /
   Troponin-T:156/2/<0.01, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is a 56 yom with hx of HTN, Hypertriglyceridemia,
   Lymphoplasmacytic Lymphoma, Atrial Fibrillation on coumadin who
   presents from home with melena and anemia.
   # Upper GI Bleed:  Mr. [**Known lastname **] presented with Melena, and an acute HCT
   drop from 40 to 22.  He received 6uPRBC and HCT now stable from 31-34
   for 24hrs.  He likely had a slow upper GI bleed which has now
   resolved.  Upper Endoscopy was done on [**3-21**] which showed gastritis,
   duodenitis and small ulcer in the greater curvature of the stomach.
   However, this is unlikely to be the source of his bleeding as his HCT
   continued to fall during and after the colonoscopy and there were no
   signs of bleeding during the procedure.  He is going for colonoscopy
   this morning to eval for right colonic bleeding.  If negative then this
   suggests that bleeding is coming from the small intestine and he will
   need a capsule endoscopy for evaluation.
   -- Large bore IV x 2
   -- PPI IV BID
   -- q12HCT
   -- transfuse for HCT < 30
   -- guaiac all stools
   -- restart Metoprolol today
   -- f/u GI recs/colonoscopy
   # Atrial Fibrillation:  Patient has hx of A-fib and is on Coumadin.
   INR reversed in the ED.  currently rate controlled.
   -- restart Metoprolol
   -- cont digoxin
   -- hold coumadin in setting of GI Bleed
   -- FFP as above for INR > 1.5
   # ECG changes:  Patient with new ECG changes on admission likely in
   setting of strain with acute anemia.  Denies CP, SOB.  Has neg enzymes
   x 3.  Outpatient cardiologist notified (Dr. [**Last Name (STitle) 1584**] and has
   recommended outpatient MIBI.
   -- hold ASA in setting of bleed
   -- MIBI as outpatient
   # HTN: restart Metoprolol.  Hold Cozaar
   # Hypertriglyceridemia: cont tricor
   # Peripheral Neuropathy: cont lyrica
   # FEN: NPO for procedure
   # Prophylaxis:  Pneumoboots, PPI
   # Access: 18g IV x 2
   # Code: Full
   # Communication: Patient
   # Disposition: Medical Floor
   ------ Protected Section ------
   Physical Exam:
   Gen: NAD, lying comfortably in bed, awake, alert
   CVS: +S1/S2, irregular rhythm, regular rate, no m/r/g
   LUNGS: CTAB, no wheezes crackles or ronchi
   ABD: +BS, NT/ND
   EXT: no c/c/e, +2 distal pulses
   ------ Protected Section Addendum Entered By:[**Name (NI) 3823**] [**Last Name (NamePattern1) 3824**], MD
   on:[**2196-3-23**] 12:23 ------

2196-03-23 11:14:00 Physician Attending Progress Note
Chief Complaint: Melena
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Prepped for csopy.
   Hct stable around 32
   No more melena
                          History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-3-23**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-3-23**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 68 (64 - 80) bpm
   BP: 131/65(82) {96/38(51) - 164/83(100)} mmHg
   RR: 10 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,396 mL
                                                                  4,600 mL
   PO:
                                                                  1,550 mL
             TF:
   IVF:
                                                                     26 mL
                                                                    600 mL
   Blood products:
                                                                    821 mL
   Total out:
                                                                  1,500 mL
                                                                    700 mL
   Urine:
                                                                  1,000 mL
                                                                    700 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    896 mL
                                                                  3,900 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   HEENT: mm dry, JVP 6 cm
   RS: CTA
   Cardiovascular: (S1: Normal), (S2: Normal), irregular, 3/6 L PSM
   Peripheral Vascular: all present, no edema
   Abdominal: no organomegaly, BS +
   Skin:  warm, well perfused
   Neurologic: intact
   Labs / Radiology
   11.8 g/dL
   143 K/uL
   105 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   10 mg/dL
   108 mEq/L
   141 mEq/L
   32.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2196-3-21**]  12:43 AM
                             [**2196-3-21**]  04:37 AM
                             [**2196-3-21**]  08:50 AM
                             [**2196-3-21**]  05:15 PM
                             [**2196-3-22**]  12:42 AM
                             [**2196-3-22**]  05:28 AM
                             [**2196-3-22**]  12:28 PM
                             [**2196-3-22**]  08:01 PM
                             [**2196-3-23**]  04:14 AM
                             [**2196-3-23**]  10:15 AM
   WBC
   7.1
   5.1
   6.0
   Hct
   22.8
   22.6
   26.0
   27.2
   28.2
   29.3
   34.6
   33.6
   31.8
   32.9
   Plt
   168
   111
   143
   Cr
   0.8
   0.8
   0.8
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   154
   168
   131
   105
   Other labs: PT / PTT / INR:14.9/33.6/1.3, CK / CKMB /
   Troponin-T:156/2/<0.01, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   56 y/o M with hx of Lymphoplasmacytic Lymphoma under remission with
   small residual tumors left in various locations, on coumadin for afib
   presents with melena, likely UGI bleed. EGD with gastritis and old
   ulcer, but not enough to explain melena. Prepped for colonoscopy today.
   To get capsule endoscopy as an outpt. Hct stable. Melena resolved.
   GI:  on iv ppi [**Hospital1 **]. Follow Hct and INR. Further recs after colonoscope
   today.
   HTN: meds held,  restart beta blocker today
   Afib; continue dig, hold coumadin and ASA, bridge with lovenox after
   scope.
   ECG changes:  ruled out MI, outpt stress test, check TTE
   Lymphoma: in remission
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: NPO for cscope
   Glycemic Control: Regular insulin sliding scale
   Lines / Intubation:
   18 Gauge - [**2196-3-21**] 12:41 AM
   Comments: 18 large bores
   Comments:
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 35 minutes